US09422281B2
A 500-mL three neck round bottomed flask fitted with a nitrogen inlet, magnetic stir bar, thermocouple, and condenser was charged with (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone (10 g, 30.9 mmol), dichloroethane (150 mL), N,N-dimethylpyridin-4-amine (0.378 g, 3.09 mmol), and di-tert-butyl dicarbonate (9.46 g, 43.3 mmol), and the reaction mixture was heated to 50° C. for 1 h. The reaction mixture was cooled to room temperature and concentrated under reduce pressure to afford (S)-tert-butyl 7-bromo-3-methyl-4-(2,2,2-trifluoroacetyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate (13.10 g, 100%) as a white solid. MS (ESI, pos. ion) m/z 423, 425 [M+1]+.

reactant | (S)-1-(6-bromo-2-methyl-3,4-dihydroquinoxaline-1(2H)-yl)-2,2,2-trifluoroethanone | 30.9 mmol, 10 g | BrC=1C=C2NC[C@@H](N(C2=CC1)C(C(F)(F)F)=O)C | C11H10BrF3N2O
reactant | di-tert-butyl dicarbonate | 43.3 mmol, 9.46 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethylpyridin-4-amine | 3.09 mmol, 0.378 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloroethane | 150 mL | ClC(C)Cl | C2H4Cl2
product | (S)-tert-butyl 7-bromo-3-methyl-4-(2,2,2-trifluoroacetyl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | 13.10 g, 100% | BrC1=CC=C2N([C@H](CN(C2=C1)C(=O)OC(C)(C)C)C)C(C(F)(F)F)=O | C16H18BrF3N2O3
